US08802688B2
Step 5. benzyl 2-tert-butyl-7-oxo-2,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-carboxylate
Benzyl 6-bromo-2-tert-butyl-7-methoxy-2,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-carboxylate (150 mg, 0.31 mmol) was dissolved in 5 mL tetrahydrofuran and treated with potassium tert-butoxide (0.61 mL, 0.61 mmol, 1 M tetrahydrofuran) and stirred for 30 minutes. Aqueous 2 N HCl (5 mL) was added and the mixture was stirred for 15 minutes at room temperature. The mixture was then diluted with 50 mL water and extracted with ethyl acetate (50 mL). The organic layer was dried over sodium sulfate, filtered and concentrated. The residue was purified by flash column chromatography (10-80% ethyl acetate/heptanes) to yield 86 mg (71%) of the title compound as a clear oil. +ESI (M+H) 396.5; 1H NMR (400 MHz, CDCl3, δ): 7.38 (s, 1 H), 7.27-7.35 (m, 5 H), 5.11 (s, 2 H), 3.48 (t, J=5.8 Hz, 4 H), 2.71 (s, 2 H), 2.57 (s, 2 H), 1.57-1.66 (m, 9 H), 1.47-1.59 (m, 4 H).

reactant | Benzyl 6-bromo-2-tert-butyl-7-methoxy-2,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-carboxylate | 0.31 mmol, 150 mg | BrC1C(C2=NN(C=C2CC12CCN(CC2)C(=O)OCC2=CC=CC=C2)C(C)(C)C)OC | C24H32BrN3O3
reactant | potassium tert-butoxide | 0.61 mmol, 1 M, 0.61 mL | CC(C)([O-])C.[K+]
reactant | HCl | 2 N, 5 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | benzyl 2-tert-butyl-7-oxo-2,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-carboxylate | 86 mg, 71% | C(C)(C)(C)N1N=C2C(CC3(CCN(CC3)C(=O)OCC3=CC=CC=C3)CC2=C1)=O | C23H29N3O3
